US06441017B1
Step B: 1-(tert-Butoxycarbonylamino)-7-(tert-butyldimethylsilyloxy)naphthalene
A mixture of 8-(tert-butoxycarbonylamino)-2-naphthol, as described above in Step A, (43.2 g, 0.167 mol), tert-butyldimethylsilyl chloride (32.7 g, 0.217 mol), and imidazole (25.0 g, 0.367 mol) in dry, degassed DMF (400 mL) was stirred, under argon, at ambient temperature for 30 min. The solvent was removed under reduced pressure and the residue was partitioned between H2O (1 L) and Et2O (2 L). The aqueous layer was extracted further with Et2O (1 L) and the combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with hexane—50% CH2Cl2 to yield the desired product as a pale solid.

reactant | 8-(tert-butoxycarbonylamino)-2-naphthol | C(C)(C)(C)OC(=O)NC=1C=CC=C2C=CC(=CC12)O | C15H17NO3
reactant | tert-butyldimethylsilyl chloride | 0.167 mol, 43.2 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 0.367 mol, 25.0 g | N1C=NC=C1 | C3H4N2
product | 1-(tert-Butoxycarbonylamino)-7-(tert-butyldimethylsilyloxy)naphthalene | C(C)(C)(C)OC(=O)NC1=CC=CC2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C | C21H31NO3Si
